US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and benzofuran-2-boronic acid were coupled in the same way as in Example 30 to give 2-{3-[3-(benzofuran-2-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (6 mg, 3%): m/z (ES+) 405 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | benzofuran-2-boronic acid | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
product | 2-{3-[3-(benzofuran-2-yl)-4-fluorophenyl]-8-fluoroimidazo[1,2-α]pyridin-7-yl}propan-2-ol | 6 mg, 3% | O1C(=CC2=C1C=CC=C2)C=2C=C(C=CC2F)C2=CN=C1N2C=CC(=C1F)C(C)(C)O | C24H18F2N2O2
